US06518277B1
2-Amino-5-bromo-N-(2-chlorophenyl)benzamide (1b)
Prepared according to Procedure A using 2-amino-5-bromobenzoic acid (5.0 g, 23.1 mmol) and SOCl2 (7.0 mL, 95.9 mmol) in benzene (50 mL), followed by 2-chloroaniline (7.3 mL, 69.3 mmol) and CHCl3 (50 mL). The product was purified by two chromatographies in CH2Cl2 to provide 1.48 g of a yellow orange solid (20%). 1H NMR (CDCl3) δ: 8.36 (dd, J=1.2, 8.2 Hz, 1H); 8.20 (br s, 1H); 7.62 (d, J=2.1 Hz, 1H); 7.42 (dd, J=1.3, 8.0 Hz, 1H); 7.34 (dd, J=2.2, 8.8 Hz, 1H); 7.28-7.33 (m, 1H); 7.09 (dt, J=1.4, 7.7 Hz, 1H); 6.62 (d, J=8.7 Hz, 1H); 5.57 (br s, 2H).

reactant | 2-amino-5-bromobenzoic acid | 23.1 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | SOCl2 | 95.9 mmol, 7.0 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 69.3 mmol, 7.3 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-5-bromo-N-(2-chlorophenyl)benzamide | 1.48 g, 20% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=C(C=C1)Br | C13H10BrClN2O
